US04742060
5.8 g of 2-imino-3-(4-pyridylmethyl)thiazolidine was added to 20 ml of conc. sulfuric acid at -5°~0° C. 6 ml of fuming nitric acid was then added dropwise to the solution at the same temperature. After stirring for 30 minutes at 0°~5° C., the reaction mixture was poured onto crushed ice. Twice extract with dichloromethan followed by treating in the usual way yielded 1.4 g of desired 2-nitroimino-3-(4-pyridylmethyl)thiazolidine.

reactant | 2-imino-3-(4-pyridylmethyl)thiazolidine | 5.8 g | N=C1SCCN1CC1=CC=NC=C1 | C9H11N3S
reactant | nitric acid | 6 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-nitroimino-3-(4-pyridylmethyl)thiazolidine | 1.4 g | [N+](=O)([O-])N=C1SCCN1CC1=CC=NC=C1 | C9H10N4O2S
